* RC
.OPTIONS LIST NODE POST 
.OP 
.pz V(4) Vin

Vin 1 0 AC 1

R1 1 2 10
C1 2 0 4e-6

R2 2 3 20
C2 3 0 7e-8

R3 3 4 1000

L1 4 5 8e-4
C3 5 0 5e-12

.end
